US07674804B2
Step 1: 6-(1-tert-Butoxycarbonyl-piperidin-4-ylamino)-2-chloro-pyrimidine-4-carboxylic acid methyl ester
A mixture of 2,6-dichloro-pyrimidine-4-carboxylic acid methyl ester (3.98 g, 19.19 mmol, 1.0 equiv; commercially available) and 4-amino-piperidine-1-carboxylic acid tert-butyl ester (5.0 g, 24.94 mmol, 1.3 equiv) in anhydrous DMF (100 mL) was heated to 60° C. for 18 h. The organic phase was concentrated under reduced pressure and the crude reaction mixture extracted from a 1 M NaOH (100 mL) solution with ethyl acetate (3×50 mL). The combined organic phases were dried over MgSO4 and the product purified with silica column chromatography using a MPLC system (CombiFlash Companion, Isco Inc.) eluting with a gradient of heptane/ethyl acetate providing 3.46 g (49%) of the title compound. 1H NMR (300 MHz, CDCl3): δ 1.42-1.51 (m, 2H), 1.47 (s, 9H), 2.00-2.05 (m, 2H), 2.90-3.01 (m, 2H), 3.92 (s, 3H), 4.05-4.10 (m, 2H), 4.19 (br s, 1H), 7.10 (s, 1H), 7.17 (br s, 1H). 13C NMR (75 MHz, CDCl3): δ28.30, 31.23, 42.41, 48.00, 52.88, 79.61, 106.38, 153.58, 154.61, 161.21, 163.75, 164.23. MS (ISP): 371.1 [M+H]+.

reactant | 2,6-dichloro-pyrimidine-4-carboxylic acid methyl ester | COC(=O)C1=NC(=NC(=C1)Cl)Cl | C6H4Cl2N2O2
reactant | 4-amino-piperidine-1-carboxylic acid tert-butyl ester | 24.94 mmol, 5.0 g, 1.3 equiv | C(C)(C)(C)OC(=O)N1CCC(CC1)N | C10H20N2O2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 6-(1-tert-Butoxycarbonyl-piperidin-4-ylamino)-2-chloro-pyrimidine-4-carboxylic acid methyl ester | COC(=O)C1=NC(=NC(=C1)NC1CCN(CC1)C(=O)OC(C)(C)C)Cl | C16H23ClN4O4
